US08445501B2
4-(5-Propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-propionyl-piperidin-4-yl)-amide
Starting from 4-(5-propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide (example A177) and propionyl chloride the title compound was obtained as colorless solid.

reactant | 4-(5-propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCC | C22H25N5O4
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-(5-Propoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (1-propionyl-piperidin-4-yl)-amide | C(CC)(=O)N1CCC(CC1)NC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCCC | C25H29N5O5
